US04568695
[2-Amino-3-(2-hydroxyethyl)phenyl](4-chlorophenyl)methanone
A mixture of 6.0 g (0.022 mole) of 2-amino-3-[(4-chlorophenyl)hydroxymethyl]benzene ethanol, 8.7 g (0.10 mole) of activated manganese dioxide and 250 ml of benzene was heated at reflux utilizing a Dean-Stark trap for 5 hours. The hot mixture obtained was filtered through Celite and the filtrate was concentrated to give a solid residue. This residue was recrystallized successively from carbon tetrachloride, cyclohexane and benzene, and 2-propanol to yield 2.9 g (48%) of the titled compound as a yellow solid,

reactant | 2-amino-3-[(4-chlorophenyl)hydroxymethyl]benzene ethanol | 0.022 mole, 6.0 g | NC1=C(C=CC=C1C(O)C1=CC=C(C=C1)Cl)CCO | C15H16ClNO2
catalyst | manganese dioxide | 0.10 mole, 8.7 g | [O-2].[O-2].[Mn+4]
solvent | benzene | 250 ml | C1=CC=CC=C1 | C6H6
product | [2-Amino-3-(2-hydroxyethyl)phenyl](4-chlorophenyl)methanone | 2.9 g, 48% | NC1=C(C=CC=C1CCO)C(=O)C1=CC=C(C=C1)Cl | C15H14ClNO2
